US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (1-dimethylcarbamoyl-2-methyl-propyl)-amide
The title compound was synthesized in analogy to Example 69, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g, 80 mg, 0.34 mmol) and 2-amino-3,N,N-trimethyl-butyramide hydrochloride (CAN 1257848-66-0, 40.1 mg, 0.27 mmol) as starting materials and isolated (35 mg, 28.4%) as white solid; LC-MS (UV peak area, ESI) 93.77%, 361.0 (M+H)+.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 0.34 mmol, 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | 2-amino-3,N,N-trimethyl-butyramide hydrochloride | 0.27 mmol, 40.1 mg | Cl.NC(C(=O)N(C)C)C(C)C
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (1-dimethylcarbamoyl-2-methyl-propyl)-amide | CN(C(=O)C(C(C)C)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1)C | C19H28N4O3
